US06887868B2
Preparation of (rac)-2-(2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-ylmethyl)-1H-isoindole-1,3(2H)-dione
A freshly prepared solution of sodium cyanoborohydride (0.093 g, 1.48 mmol) in CH3OH (0.3 mL) was added dropwise to a 0° C. solution of 2-(2,3-dihydro[1,4]oxazino[2,3,4-hi]indol-6-ylmethyl)-1H-isoindole-1,3(2H)-dione (0.094 g, 0.29 mmol) in TFA (3.0 mL). The mixture was stirred at rt for 1 hour and diluted with H2O (10.0 mL) and made basic by the addition of 15% NaOH. The mixture was then extracted with EtOAc (3×). The combined EtOAc solution was dried over MgSO4 and concentrated in vacuo to dryness. The residue was redissolved in CH2Cl2 and filtered. The filtrate was concentrated in vacuo to dryness and the residue was subjected to preparative TLC (EtOAc/Hex., ½) to give 0.031 g (33%) of light yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.93-7.88 (m, 2 H), 7.80-7.75 (m, 2 H), 6.79-6.77 (m, 1 H), 6.75-6.65 (m, 2 H), 4.46-4.43 (m, 2 H), 4.10-4.05 (m, 1 H), 4.00-3.94 (m, 1 H), 3.77-3.73 (m, 1 H), 3.34-3.33 (m, 1 H), 3.30-3.26 (m, 1 H), 3.17-3.15 (m, 1 H), 3.10-3.08 (m, 1 H); MS (EI) m/z 321 (M++H).

reactant | sodium cyanoborohydride | 1.48 mmol, 0.093 g | C(#N)[BH3-].[Na+]
reactant | 2-(2,3-dihydro[1,4]oxazino[2,3,4-hi]indol-6-ylmethyl)-1H-isoindole-1,3(2H)-dione | 0.29 mmol, 0.094 g | O1CCN2C=C(C3=CC=CC1=C23)CN2C(C3=CC=CC=C3C2=O)=O | C19H14N2O3
reactant | NaOH | [OH-].[Na+]
solvent | CH3OH | 0.3 mL | CO | CH4O
solvent | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | 10.0 mL | O | H2O
product | (rac)-2-(2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-ylmethyl)-1H-isoindole-1,3(2H)-dione | O1CCN2CC(C3=CC=CC1=C23)CN2C(C3=CC=CC=C3C2=O)=O | C19H16N2O3
